### PR TITLE
[Merged by Bors] - feat:  `ℤ_[p]` is totally bounded and compact;  `ℚ_[p]` is locally compact

### PR DESCRIPTION
**Pull request by jouglasheen**
Prove that the padic integers,  `ℤ_[p]`,  are totally bounded and compact, and that the padic numbers,  `ℚ_[p]`,  are locally compact. This was requested [on zulip](https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/Zp.20is.20compact.3F). 

Co-authored-by: Kevin Buzzard <k.buzzard@imperial.ac.uk>

---

### CODE REVIEW

File: PadicsLoco/PadicsLoco.lean
Comment (loefflerd) [inline PadicsLoco/PadicsLoco.lean:1]: You should put the new file somewhere inside the mathlib hierarchy. I suggest `Mathlib/NumberTheory/Padics/LocallyCompact.lean`. Then run `lake exe mk_all` to update the root-level index file `Mathlib.lean` (and make sure you include the changes to Mathlib.lean in your git commit). (If you think this really ought to be done automatically, then yes, I agree.)

File: PadicsLoco/PadicsLoco.lean [hunk 1]
```diff
@@ -0,0 +1,119 @@
...
+      simp only [Finset.mem_coe, Nat.cast_inj]
+      refine exists_eq_right.mpr ?h.left.a.a
+      refine Finset.mem_range.mpr ?h.left.a.a.a
+      exact PadicInt.appr_lt z k
+    · have h1 : dist z ((z.appr k) : ℤ_[p]) ≤ (p ^ (- (k : ℤ ))) := by
+        have h3 : (z ) - ↑(z.appr k) ∈ Ideal.span {(p  : ℤ_[p]) ^ k} := PadicInt.appr_spec k z
+        have h4 : ‖(z) - ↑(z.appr k)‖  ≤ (p : ℝ) ^ (- k : ℤ) :=
+          (PadicInt.norm_le_pow_iff_mem_span_pow (z - ((z.appr k) : ℤ_[p])) k).mpr h3
+        exact h4
+      exact lt_of_le_of_lt h1 hk
```
Comment (loefflerd) [inline PadicsLoco/PadicsLoco.lean:63]: Here's a golfed version:
```suggestion
/-- The set of p-adic integers `ℤ_[p]` is totally bounded. -/
theorem totallyBounded_univ : TotallyBounded (univ : Set ℤ_[p]) := by
  refine Metric.totallyBounded_iff.mpr (fun ε hε ↦ ?_)
  obtain ⟨k, hk⟩ := exists_pow_neg_lt p hε
  refine ⟨Nat.cast '' Finset.range (p ^ k), Set.toFinite _, fun z _ ↦ ?_⟩
  simp only [PadicInt, Set.mem_iUnion, Metric.mem_ball, exists_prop, Set.exists_mem_image]
  refine ⟨z.appr k, ?_, ?_⟩
  · simpa only [Finset.mem_coe, Finset.mem_range] using z.appr_lt k
  · exact (((z - z.appr k).norm_le_pow_iff_mem_span_pow k).mpr (z.appr_spec k)).trans_lt hk
```
This is really just a superficial rearrangement of your proof; the only (tiny) change of actual substance was using the lemma `Set.exists_mem_image` to skip a few steps. I think the last subgoal, `dist z ↑(z.appr k) ≤ ↑p ^ (-↑k)`, may actually be worth factoring out as a lemma in its own right; the existing formulation of `appr_spec` is very algebraic and so not easy to use in analytic / topological contexts like here.

File: PadicsLoco/PadicsLoco.lean [hunk 2]
```diff
@@ -0,0 +1,119 @@
...
+
+/--The set of p-adic integers `ℤ_[p]` is a compact topological space,
+where (p : ℕ) [Fact (Nat.Prime p)].-/
+  theorem is_compact : IsCompact (Set.univ : Set ℤ_[p]) := by
+    apply isCompact_iff_totallyBounded_isComplete.2
+    constructor
+    · exact totally_bounded p
+    · exact complete_univ
```
Comment (loefflerd) [inline PadicsLoco/PadicsLoco.lean:71]: I think you probably want `CompactSpace` (the whole space is compact), not `IsCompact Set.univ`, here. It should also be declared as a typeclass instance (so the typeclass resolution machinery can use it). Perhaps:
```suggestion
/-- The set of p-adic integers `ℤ_[p]` is a compact topological space. -/
instance compactSpace : CompactSpace ℤ_[p] := by
  rw [← isCompact_univ_iff, isCompact_iff_totallyBounded_isComplete]
  exact ⟨totallyBounded p, complete_univ⟩
```

**Review by loefflerd — COMMENTED** [review]
Here are some comments on the first half. Will post some on the second half later.

File: PadicsLoco/PadicsLoco.lean [hunk 3]
```diff
@@ -0,0 +1,119 @@
...
+    simp only [Set.image_univ, Subtype.range_coe_subtype]
+    constructor
+    · exact nhd_zero p
+    · refine isCompact_iff_compactSpace.mpr ?h.right.a
+      refine { isCompact_univ := ?h.right.a.isCompact_univ }
+      apply is_compact
+  rcases ex with ⟨U, hu1, hu2⟩
+  apply IsCompact.locallyCompactSpace_of_mem_nhds_of_addGroup
+  · convert hu2
+  · convert hu1
```
Comment (loefflerd) [inline PadicsLoco/PadicsLoco.lean:117]: I think you're using a sledgehammer to crack a nut here: you're showing that the closed ball is an *open* neighbourhood of 0, which is a distinctive feature of ultrametric spaces. But neighbourhoods don't have to be open -- the definition of a "neighbourhood of `a`" is "any set which contains an open set containing `a`". So it's true in any metric space that the closed ball (of any nonzero radius) around `a` is a neighbourhood of `a` (and mathlib knows this: `closedBall_mem_nhds`).

With this, you can golf the proof to 4 lines:
```suggestion
/-- The field of p-adic numbers `ℚ_[p]` is a locally compact topological space. -/
instance locallyCompact : LocallyCompactSpace ℚ_[p] := by
  have : closedBall 0 1 ∈ 𝓝 (0 : ℚ_[p]) := closedBall_mem_nhds _ zero_lt_one
  simp only [closedBall, dist_eq_norm_sub, sub_zero] at this
  refine IsCompact.locallyCompactSpace_of_mem_nhds_of_addGroup ?_ this
  simpa only [isCompact_iff_compactSpace] using PadicInt.compactSpace p
```
(you'll need an `open Topology` somewhere for the `𝓝` notation.)

**Review by loefflerd — COMMENTED** [review]
I've posted some more comments. I hope you won't be discouraged that I've "golfed" your proofs a lot: the overall shape of the proof is still exactly as you wrote it. I think this is a really great contribution to mathlib, and it comes at exactly the right time for me (+ for my project student Giulio, who wants to use this in a proof of Mahler's theorem). Keep up the good work!

**Comment by jouglasheen** [comment]
> I've posted some more comments. I hope you won't be discouraged that I've "golfed" your proofs a lot: the overall shape of the proof is still exactly as you wrote it. I think this is a really great contribution to mathlib, and it comes at exactly the right time for me (+ for my project student Giulio, who wants to use this in a proof of Mahler's theorem). Keep up the good work!

Thanks very much for reviewing my work! I have to take some time to understand your suggestions. I tried to implement them too quickly, and I don't think I did this properly.

File: PadicsLoco/PadicsLoco.lean [hunk 4]
```diff
@@ -0,0 +1,88 @@
...
+  refine ⟨Nat.cast '' Finset.range (p ^ k), Set.toFinite _, fun z _ ↦ ?_⟩
+  simp only [PadicInt, Set.mem_iUnion, Metric.mem_ball, exists_prop, Set.exists_mem_image]
+  refine ⟨z.appr k, ?_, ?_⟩
+  · simpa only [Finset.mem_coe, Finset.mem_range] using z.appr_lt k
+  · exact (((z - z.appr k).norm_le_pow_iff_mem_span_pow k).mpr (z.appr_spec k)).trans_lt hk
+
+/-- The set of p-adic integers `ℤ_[p]` is a compact topological space. -/
+instance compactSpace : CompactSpace ℤ_[p] := by
+  rw [← isCompact_univ_iff, isCompact_iff_totallyBounded_isComplete]
+  exact ⟨totallyBounded p, complete_univ⟩
```
Comment (loefflerd) [inline PadicsLoco/PadicsLoco.lean:50]: Sorry, I got this wrong, it should be 
```suggestion
  exact ⟨totallyBounded_univ p, complete_univ⟩
```

File: PadicsLoco/PadicsLoco.lean [hunk 5]
```diff
@@ -0,0 +1,88 @@
...
+## Notation
+
+ - `p` : Is a natural prime.
+
+## References
+
+Gouvêa, F. Q. (2020) p-adic Numbers An Introduction. 3rd edition.
+  Cham, Springer International Publishing
+-/
+
```
Comment (loefflerd) [inline PadicsLoco/PadicsLoco.lean:32]:
```suggestion
open Metric Topology

```
(and then you can delete `open Metric` at line 53)

File: PadicsLoco/PadicsLoco.lean [hunk 6]
```diff
@@ -0,0 +1,88 @@
...
+  · simpa only [Finset.mem_coe, Finset.mem_range] using z.appr_lt k
+  · exact (((z - z.appr k).norm_le_pow_iff_mem_span_pow k).mpr (z.appr_spec k)).trans_lt hk
+
+/-- The set of p-adic integers `ℤ_[p]` is a compact topological space. -/
+instance compactSpace : CompactSpace ℤ_[p] := by
+  rw [← isCompact_univ_iff, isCompact_iff_totallyBounded_isComplete]
+  exact ⟨totallyBounded p, complete_univ⟩
+
+open Metric
+
```
Comment (loefflerd) [inline PadicsLoco/PadicsLoco.lean:53]:
```suggestion
```

**Review by loefflerd — COMMENTED** [review]
Sorry, it was me that screwed up: some of my suggestions weren't totally consistent with each other, which is why the file didn't compile when you applied the suggestion. Here's the fixes to get it working again.

File: PadicsLoco/PadicsLoco.lean [hunk 7]
```diff
@@ -0,0 +1,89 @@
...
+  · exact (((z - z.appr k).norm_le_pow_iff_mem_span_pow k).mpr (z.appr_spec k)).trans_lt hk
+
+/-- The set of p-adic integers `ℤ_[p]` is a compact topological space. -/
+instance compactSpace : CompactSpace ℤ_[p] := by
+  rw [← isCompact_univ_iff, isCompact_iff_totallyBounded_isComplete]
+  exact ⟨totallyBounded_univ p, complete_univ⟩
+
+open Metric
+
+lemma closed_ball_at_zero : (closedBall 0 1) = {x : ℚ_[p] | ‖x‖ ≤ 1} := by
```
Comment (urkud) [inline PadicsLoco/PadicsLoco.lean:55]: This is true in any normed group, and we already have [mem_closedBall_zero_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Normed/Group/Basic.html#mem_closedBall_zero_iff)

File: PadicsLoco/PadicsLoco.lean [hunk 8]
```diff
@@ -0,0 +1,89 @@
...
+    refine Set.ext ?h
+    intros x
+    constructor
+    · simp only [mem_closedBall, dist_zero_right, Set.mem_setOf_eq, imp_self]
+    · simp only [Set.mem_setOf_eq, mem_closedBall, dist_zero_right, imp_self]
+
+lemma nhd_zero : {x | ‖x‖ ≤ 1} ∈ nhds (0 : ℚ_[p]) := by
```
Comment (urkud) [inline PadicsLoco/PadicsLoco.lean:62]: Same here.

File: PadicsLoco/PadicsLoco.lean [hunk 9]
```diff
@@ -0,0 +1,89 @@
...
+    refine (Padic.norm_le_one_iff_val_nonneg 0).mpr ?h.left.hx.a.a.a
+    simp only [Padic.valuation_zero, le_refl]
+
+end PadicInt
+
+namespace Padic
+open PadicInt
+
+/-- The field of p-adic numbers `ℚ_[p]` is a locally compact topological space. -/
+instance locallyCompact : LocallyCompactSpace ℚ_[p] := by
```
Comment (urkud) [inline PadicsLoco/PadicsLoco.lean:83]: Please prove `ProperSpace ℚ_[p]` instead.

File: PadicsLoco/PadicsLoco.lean
Comment (jouglasheen) [reply PadicsLoco/PadicsLoco.lean:1]: I put it in `Mathlib/NumberTheory/Padics/ProperSpace.lean`, to incorporate your recommendation as well as Yury's below

File: Mathlib/NumberTheory/Padics/ProperSpace.lean [hunk 10]
```diff
@@ -0,0 +1,89 @@
...
+  refine IsOpen.mem_nhds ?hs ?hx
+  · rw [← closed_ball_at_zero]
+    exact ob
+  · refine Set.singleton_subset_iff.mp ?h.left.hx.a
+    refine Set.subset_setOf.mpr ?h.left.hx.a.a
+    intros x hx
+    simp only [Multiset.mem_singleton, Set.mem_singleton_iff] at hx
+    rw [hx]
+    refine (Padic.norm_le_one_iff_val_nonneg 0).mpr ?h.left.hx.a.a.a
+    simp only [Padic.valuation_zero, le_refl]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/Padics/ProperSpace.lean:75]: These lemmas aren't needed any more and can be deleted

File: Mathlib/NumberTheory/Padics/ProperSpace.lean [hunk 11]
```diff
@@ -0,0 +1,89 @@
...
+
+namespace Padic
+open PadicInt
+
+/-- The field of p-adic numbers `ℚ_[p]` is a locally compact topological space. -/
+instance locallyCompact : LocallyCompactSpace ℚ_[p] := by
+  have : closedBall 0 1 ∈ 𝓝 (0 : ℚ_[p]) := closedBall_mem_nhds _ zero_lt_one
+  simp only [closedBall, dist_eq_norm_sub, sub_zero] at this
+  refine IsCompact.locallyCompactSpace_of_mem_nhds_of_addGroup ?_ this
+  simpa only [isCompact_iff_compactSpace] using PadicInt.compactSpace p
```
Comment (loefflerd) [inline Mathlib/NumberTheory/Padics/ProperSpace.lean:87]: Yury wants you to prove properness, which is a stronger condition than local compactness (and then the typeclass machinery will automatically deduce local compactness from this whenever needed). However, in the current situation the converse implication is also true, so you can do the following:
```suggestion
/-- The field of p-adic numbers `ℚ_[p]` is a proper metric space. -/
instance : ProperSpace ℚ_[p] := by
  suffices LocallyCompactSpace ℚ_[p] from .of_locallyCompactSpace ℚ_[p]
  have : closedBall 0 1 ∈ 𝓝 (0 : ℚ_[p]) := closedBall_mem_nhds _ zero_lt_one
  simp only [closedBall, dist_eq_norm_sub, sub_zero] at this
  refine IsCompact.locallyCompactSpace_of_mem_nhds_of_addGroup ?_ this
  simpa only [isCompact_iff_compactSpace] using PadicInt.compactSpace p
```
(This also requires an extra import, see next comment)

File: Mathlib/NumberTheory/Padics/ProperSpace.lean [hunk 12]
```diff
@@ -0,0 +1,89 @@
+/-
+Copyright (c) 2024 Jou Glasheen. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Jou Glasheen, Kevin Buzzard
+-/
+
+import Mathlib.NumberTheory.Padics.RingHoms
+import Mathlib.Topology.MetricSpace.Ultra.Basic
```
Comment (loefflerd) [inline Mathlib/NumberTheory/Padics/ProperSpace.lean:8]:
```suggestion
import Mathlib.Analysis.Normed.Module.FiniteDimension
import Mathlib.NumberTheory.Padics.RingHoms
```
(see preceding remark)

File: Mathlib/NumberTheory/Padics/ProperSpace.lean [hunk 13]
```diff
@@ -0,0 +1,89 @@
...
+    intros x hx
+    simp only [Multiset.mem_singleton, Set.mem_singleton_iff] at hx
+    rw [hx]
+    refine (Padic.norm_le_one_iff_val_nonneg 0).mpr ?h.left.hx.a.a.a
+    simp only [Padic.valuation_zero, le_refl]
+
+end PadicInt
+
+namespace Padic
+open PadicInt
```
Comment (loefflerd) [inline Mathlib/NumberTheory/Padics/ProperSpace.lean:80]:
```suggestion
```
(this line is not needed and can be deleted)

**Review by loefflerd — COMMENTED** [review]
You've now moved the file to the right place in the hierarchy – thanks!

Sadly github isn't quite clever enough to move the existing review comments across to the new file location, so I've marked all my comments on the previous version as "resolved", and I'm going to post them afresh here.

(By the way, if you go to the "Files changed" tab on the github PR page, you can apply multiple reviewer suggestions as a batch in a single commit, so the automatic build test script only gets triggered once.)

**Comment by loefflerd** [comment]
It looks like you've now dealt with all the comments. If that's so, feel free to remove the "awaiting author" label, to signal it's ready for review once more.

**Comment by jouglasheen** [comment]
> It looks like you've now dealt with all the comments. If that's so, feel free to remove the "awaiting author" label, to signal it's ready for review once more.

Thank you! I've done this.

**Comment by loefflerd** [comment]
Looks good to me!

maintainer merge

**Comment by ocfnash** [comment]
Thanks!

bors merge
